US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-methyl-5-phenyl-pent-4-enoic acid was prepared starting from 2-(4-methoxy-benzenesulfonyl)-2-methyl-5-phenyl-pent-4-enoic acid ethyl ester (3.0 g, 11 mmol) dissolved in methanol (50 ml) and 10 N NaOH (30 ml). The resulting reaction mixture was worked up as outlined in Example 9. Yield 1.9 g, 68%; yellowish oil; MS: 361 (M+H)+.

reactant | 2-(4-methoxy-benzenesulfonyl)-2-methyl-5-phenyl-pent-4-enoic acid ethyl ester | 11 mmol, 3.0 g | C(C)OC(C(CC=CC1=CC=CC=C1)(C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C21H24O5S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 2-(4-Methoxy-benzenesulfonyl)-2-methyl-5-phenyl-pent-4-enoic acid | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC=CC1=CC=CC=C1)C | C19H20O5S
